* Schematics Netlist *



V_V1         $N_0001 0 5v
R_R3         $N_0002 $N_0001  1k  
R_R1         0 $N_0002  2k  
R_R2         0 $N_0002  10k  
