* Schematics Netlist *



R_R3         0 $N_0001  3  
R_R6         $N_0003 $N_0002  12  
V_V1         $N_0002 0 30V
R_R4         $N_0001 $N_0003  5  
R_R2         $N_0001 $N_0002  2  
R_R8         0 $N_0003  12  
